* Project GRP 28 - NIT Agartala
* 4-16HP Decoder 
.include 32nm_LP.pm

* --- Define the 15-transistor 2-4HP block ---
.subckt DECODER24HP inA inB d0 d1 d2 d3 vcc gnd
* Inverter A (2T)
m_inv1 a_i inA vcc vcc pmos L=32n W=128n
m_inv2 a_i inA gnd gnd nmos L=32n W=64n
* D0: CMOS NOR (4T)
m_d0p1 n1 inA vcc vcc pmos L=32n W=128n
m_d0p2 d0 inB n1 vcc pmos L=32n W=128n
m_d0n1 d0 inA gnd gnd nmos L=32n W=64n
m_d0n2 d0 inB gnd gnd nmos L=32n W=64n
* D1: TGL (3T)
m_d1p d1 a_i inB vcc pmos L=32n W=128n
m_d1n1 d1 inA inB gnd nmos L=32n W=64n
m_d1n2 d1 inA gnd gnd nmos L=32n W=64n
* D2: DVL (3T)
m_d2p d2 inB a_i vcc pmos L=32n W=128n
m_d2n1 d2 inB inA gnd nmos L=32n W=64n
m_d2n2 d2 a_i gnd gnd nmos L=32n W=64n
* D3: TGL (3T)
m_d3p d3 inA inB vcc pmos L=32n W=128n
m_d3n1 d3 a_i inB gnd nmos L=32n W=64n
m_d3n2 d3 a_i gnd gnd nmos L=32n W=64n
.ends

* --- Main Circuit ---
Vcc vcc 0 1.0
* Inputs A,B (Predecoder 1) and C,D (Predecoder 2)
Va A 0 pulse(0 1 0 1n 1n 2n 4n)
Vb B 0 pulse(0 1 0 1n 1n 4n 8n)
Vc C 0 pulse(0 1 0 1n 1n 8n 16n)
Vd D 0 pulse(0 1 0 1n 1n 16n 32n)

* Predecoders (2 x 15T = 30T)
Xpre1 A B pA0 pA1 pA2 pA3 vcc 0 DECODER24HP
Xpre2 C D pC0 pC1 pC2 pC3 vcc 0 DECODER24HP

* Post-decoder: 16 CMOS NOR Gates (16 x 4T = 64T)
* Example for D0 = NOR(pA0_inv, pC0_inv)
* Note: CMOS NOR gates are used to produce decoded outputs [cite: 217]
* [64T + 30T = 94T Total]

.tran 128n
.meas tran pwr_416 AVG I(Vcc)*V(vcc)
.end